US07393959B2
2-(1H-Pyrrol-3-yl)pyridine (300 mg, 2.0 mmol), 5-bromo-2-pyridin-2-ylbenzonitrile (538.7 g, 2.0 mmol), sodium tert-butoxide (384 mg, 4.0 mmol) and trans-1,2 diaminocyclohexane (23 mg, 0.2 mmol) were combined in DMF (10 mL) under argon. The reaction mixture was heated at 140° C. overnight. The reaction mixture was allowed to cool to ambient temperature. TLC analysis showed no starting material present. The reaction mixture was diluted with EtOAc (100 mL), and washed with H2O (3×100 mL), brine (100 mL), dried over Na2SO4, filtered, and concentrated in vacuo to afford a dark oil. The crude product was purified by column chromatography eluting with 5.5:4.5 EtOAc:Hexane to afford 2-pyridin-2-yl-5-(3-pyridin-2-yl-1H-pyrrol-1-yl)benzonitrile (160 mg, 27% yield) as a yellow solid. 1H NMR (CDCl3, 300 MHz) δ 8.73-8.74 (d, 1H), 8.48-8.49 (d, 1H), 8.14-8.15 (d, 1H), 7.98-8.01 (m, 3H), 7.92-7.94 (d, 1H), 7.86-7.88 (d, 1H), 7.79-7.81 (t, 1H), 7.47-7.53 (m, 2H), 7.22-7.24 (m, 1H), 6.94-6.95 (m, 1H). MS 323.4 (M++H).

reactant | 2-(1H-Pyrrol-3-yl)pyridine | 2.0 mmol, 300 mg | N1C=C(C=C1)C1=NC=CC=C1 | C9H8N2
reactant | 5-bromo-2-pyridin-2-ylbenzonitrile | 2.0 mmol, 538.7 g | BrC=1C=CC(=C(C#N)C1)C1=NC=CC=C1 | C12H7BrN2
reactant | sodium tert-butoxide | 4.0 mmol, 384 mg | CC(C)([O-])C.[Na+]
reactant | trans-1,2 diaminocyclohexane | 0.2 mmol, 23 mg | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | Hexane | CCCCCC | C6H14
product | 2-pyridin-2-yl-5-(3-pyridin-2-yl-1H-pyrrol-1-yl)benzonitrile | 160 mg, 27% yield | N1=C(C=CC=C1)C1=C(C#N)C=C(C=C1)N1C=C(C=C1)C1=NC=CC=C1 | C21H14N4
